US04352913
Example 12: β-Dimethylaminoethyl benzoate
In accordance with the procedure of Example 10, 89.1 g of 2-dimethylaminoethanol and 140.5 g of benzoyl chloride are reacted in altogether 300 ml of CHCl3. The reaction mixture is neutralised with 210 ml of 20% NaOH. Yield: 187.7 g (97.1%) of analytically pure product (analysis by gas chromatography) with a boiling point of 127° C./9 torr.

reactant | 2-dimethylaminoethanol | 89.1 g | CN(CCO)C | C4H11NO
reactant | benzoyl chloride | 140.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaOH | 210 ml | [OH-].[Na+]
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | β-Dimethylaminoethyl benzoate | C(C1=CC=CC=C1)(=O)OCCN(C)C | C11H15NO2
